US04515786
Methyl 3α-acetoxy-11α-cyclohexylamino-5α-androstane-17β-carboxylate
Methyl 11α-cyclohexylamino-3α-hydroxy-5α-androstane-17β-carboxylate (550 mg) in chloroform (5.5 ml) containing dry PTSA (440 mg) was stirred for 20 min then treated with acetic anhydride (1.0 ml) and left for 18 h. The reaction mixture was diluted with ethanol and evaporated to give an oil. The residue is ethanol (10 ml) was diluted with 5% NaHCO3 solution (50 ml) and water (100 ml) and extracted with ether (3×). The extracts were washed with water (1×), dried and evaporated to give an oil. This was crystallised from methanol to give the title compound (249 mg), m.p. 126°-128°, [α]D +12°.

reactant | Methyl 11α-cyclohexylamino-3α-hydroxy-5α-androstane-17β-carboxylate | 550 mg | C1(CCCCC1)N[C@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)O)C | C27H45NO3
reactant | PTSA | 440 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 5.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
solvent | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Methyl 3α-acetoxy-11α-cyclohexylamino-5α-androstane-17β-carboxylate | 249 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(CC1)C)NC1CCCCC1)C(=O)OC | C29H47NO4
